US04105789
Nα -(4-carboxy-2-methylbutanoyl)-L-lysine
By substituting Nε -benzyloxycarbonyl-L-lysine benzyl ester for the L-alanine benzyl ester in the procedure of Example 23 and then treating the product by the procedures of Examples 24 and 26, Nα -(4-methoxycarbonyl-2-methylbutanoyl)-N68 -benzyloxycarbonyl-L-lysine benzyl ester, Nα -(4-methoxycarbonyl-2-methylbutanoyl)-L-lysine and Nα -(4-carboxy)-2-methylbutanoyl)-L-lysine are obtained.

reactant | Nε -benzyloxycarbonyl-L-lysine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](N)CCCCNC(=O)OCC1=CC=CC=C1)=O | C21H26N2O4
reactant | L-alanine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](N)C)=O | C10H13NO2
reactant | Nα -(4-methoxycarbonyl-2-methylbutanoyl)-L-lysine | COC(=O)CCC(C(=O)N[C@@H](CCCCN)C(=O)O)C | C13H24N2O5
reactant | L-lysine | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
product | Nα -(4-carboxy-2-methylbutanoyl)-L-lysine | C(=O)(O)CCC(C(=O)N[C@@H](CCCCN)C(=O)O)C | C12H22N2O5
